US07521455B2
(5) Manufacture of 2-(4-hydroxyphenyl)-3-methyl-1(2H)-isoquinolinone
2-(4-methoxyphenyl)-3-methyl-1(2H)-isoquinolinone (56 mg, 0.21 mmol) was dissolved in dry methylene chloride, a 1M methylene chloride solution (0.63 mL) of boron tribromide was slowly added at −10° C., and stirred at room temperature for 2 hours. A saturated sodium hydrogen carbonate aqueous solution was added to the reaction mixture, and the methylene chloride distilled off under reduced pressure. 8N hydrochloric acid aqueous solution was added, and the solid precipitate was filtered off and dried to obtain the target compound (48 mg, 91%) as a colorless solid.

reactant | 2-(4-methoxyphenyl)-3-methyl-1(2H)-isoquinolinone | 0.21 mmol, 56 mg | COC1=CC=C(C=C1)N1C(C2=CC=CC=C2C=C1C)=O | C17H15NO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1M, 0.63 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-hydroxyphenyl)-3-methyl-1(2H)-isoquinolinone | 48 mg, 91% | OC1=CC=C(C=C1)N1C(C2=CC=CC=C2C=C1C)=O | C16H13NO2
